US08937178B2
2-Methyl-6-nitrobenzoxazole (10.0 g, 56 mmol) and 10% Pd/C (3.4 g) in MeOH (10 mL) were hydrogenated at rt for 16 h. The reaction mixture was filtered through Celite and wash with MeOH (100 mL). The filtrate was concentrated under vacuum to obtained crude 2-methylbenzo[d]oxazol-6-amine (8.4 g), (MS: ESI +ve, 149.07 [M+H]); 1H NMR: (400 MHz, DMSO) δ: 2.47 (s, 3H), 5.24 (s, 2H), 6.56-6.53 (dd, J=2, 1H), 6.70-6.70 (d, J=1.6, 1H), 7.25-7.23 (d, J=8.4, 1H).

reactant | 2-Methyl-6-nitrobenzoxazole | 56 mmol, 10.0 g | CC=1OC2=C(N1)C=CC(=C2)[N+](=O)[O-] | C8H6N2O3
solvent | MeOH | 10 mL | CO | CH4O
catalyst | Pd/C | 3.4 g | [Pd] | Pd
product | 2-methylbenzo[d]oxazol-6-amine | 8.4 g | CC=1OC2=C(N1)C=CC(=C2)N | C8H8N2O
